US06313137B1
Synthesis of 2-isopropyl-6-methylbenzylalcohol
To a solution of 2-isopropyl-6-methylbenzaldehyd (1.75 g, 10.8 mmol) in methanol (15 ml) was added sodium borohydride (0.35 g, 9.5 mmol) and the mixture was stirred 1 h. at room temperature. The solvent was evaporated under reduced pressure and to the residue was added hexane and water. The organic layer was separated and evaporated under reduced pressure to give 1.73 g (98%) of the title compound as an oil.

reactant | 2-isopropyl-6-methylbenzaldehyd | 10.8 mmol, 1.75 g | C(C)(C)C1=C(C=O)C(=CC=C1)C | C11H14O
reactant | sodium borohydride | 9.5 mmol, 0.35 g | [BH4-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 2-isopropyl-6-methylbenzylalcohol | 1.73 g, 98% | C(C)(C)C1=C(CO)C(=CC=C1)C | C11H16O
